US06313122B1
Preparation of 3,6-Dimethoxy-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine
Using the procedure described in Example 93, Part A, 4-anisoyl chloride (4.9 mmol) and 3,6-dimethoxy-1,2-benzenediamine (2.0 mmol) yielded 555 mg (65%) of the title compound.

reactant | 4-anisoyl chloride | 4.9 mmol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 3,6-dimethoxy-1,2-benzenediamine | 2.0 mmol | COC1=C(C(=C(C=C1)OC)N)N | C8H12N2O2
product | 3,6-Dimethoxy-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine | 555 mg, 65% | COC1=C(C(=C(C=C1)OC)NC(C1=CC=C(C=C1)OC)=O)NC(C1=CC=C(C=C1)OC)=O | C24H24N2O6
